US04439425
0.56 ml of palmitic acid chloride in 5 ml of methylenechloride are added to 0.8 g of N-palmitoyl-S-[2-(R,S)-hydroxyoctadecyl]-(L)-cysteine benzhydryl ester in 5 ml of pyridine. After standing for 24 hours at room temperature the acylation is completed as can be detected by thin layer chromatography on silicagel Merck, chloroform 2 ml of methanol are added and after 20 minutes the reaction mixture is evaporated under reduced pressure. The residue is taken up in chloroform and the chloroform solution is extracted twice each time with 1 N HCl, saturated sodium bicarbonate solution and water, dried over sodium sulfate and evaporated. After purification of the residue over 20 g of silicagel Merck with chloroform as eluant there are obtained colorless crystals of the N-palmitoyl-S-[2(R,S)-palmitoyloxyoctadecyl]-(L)-cysteine-benzhydryl ester, which can be crystallised from acetone-methanol and which melts at 46°-47°.

reactant | palmitic acid chloride | 0.56 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | N-palmitoyl-S-[2-(R,S)-hydroxyoctadecyl]-(L)-cysteine benzhydryl ester | 0.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CSCC(CCCCCCCCCCCCCCCC)O)=O | C50H83NO4S
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | methylenechloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-palmitoyl-S-[2(R,S)-palmitoyloxyoctadecyl]-(L)-cysteine-benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CSCC(CCCCCCCCCCCCCCCC)OC(CCCCCCCCCCCCCCC)=O)=O | C66H113NO5S
